US07947690B2
A tert-butanol solution of N-methylmorpholine-N-oxide and osmium tetraoxide was added to a mixture of 1-benzyl-4-methyleneazepane hydrochloride and THF-water, and the resultant solution was stirred at ambient temperature for 24 hours and then treated with 4M HCl-EtOAc solution to yield 1-benzyl-4-(hydroxymethyl)azepan-4-ol hydrochloride. To an EtOH solution of 1-benzyl-4-(hydroxymethyl)azepan-4-ol hydrochloride obtained was added 10% palladium on activated carbon, and the suspension was stirred under hydrogen atmosphere at ambient temperature for 6 hours to yield 4-(hydroxymethyl)azepan-4-ol hydrochloride.

reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | N-methylmorpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 1-benzyl-4-methyleneazepane hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CCC1)=C
reactant | HCl EtOAc | 4M | Cl.CCOC(=O)C
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
solvent | THF water | C1CCOC1.O
product | 1-benzyl-4-(hydroxymethyl)azepan-4-ol hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CCC1)(O)CO | InChI=1S/C14H21NO2.ClH/c16-12-14(17)7-4-9-15(10-8-14)11-13-5-2-1-3-6-13;/h1-3,5-6,16-17H,4,7-12H2;1H
